US07312249B2
f. Preparation of Dimethyl 4-[3-(3-ethyl-4-hydroxyphenyl)propyl]phthalate
6.9 g (16.6 mmol) of dimethyl 4-[3-(4-ethoxymethoxy-3-ethylphenyl)propyl]phthalate are dissolved in 100 ml of methanol. 3 ml of concentrated sulphuric acid are added dropwise, and the medium is stirred fro 1 hour, and then poured into water, and extracted with dichloromethane. The organic phases are dried and concentrated. The residue obtained is purified by chromatography on a silica column (eluent heptane 80/ethyl acetate 20). A colorless oil is obtained (m=5 g, y=84%).

reactant | dimethyl 4-[3-(4-ethoxymethoxy-3-ethylphenyl)propyl]phthalate | 16.6 mmol, 6.9 g | C(C)OCOC1=C(C=C(C=C1)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)CC | C24H30O6
reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | Dimethyl 4-[3-(3-ethyl-4-hydroxyphenyl)propyl]phthalate | C(C)C=1C=C(C=CC1O)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C21H24O5
